US06855845B2
Conventionally, it is known that selective bromination of aromatic compounds having an electron-attracting group is very difficult. As techniques related to such a reaction, it is known, for example as a method for preparing dialkyl 5-bromoisophtalate a method comprising brominating dimethyl isophthalate with bromine at the presence of bromine trifluoride (BrF3) to give dimethyl 5-bromoisophtalate in a 55% yield (J. Org. Chem., 58, 239 (1993)). This method, however, uses bromine trifluoride that is expensive and intractable, and leads an aimed product in a low yield. Therefore, the above-mentioned method is not practical.

reactant | dimethyl isophthalate | C(C1=CC(C(=O)OC)=CC=C1)(=O)OC | C10H10O4
reactant | bromine | BrBr | Br2
reactant | bromine trifluoride | Br(F)(F)F | BrF3
product | dimethyl 5-bromoisophtalate | 55% yield | BrC=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C10H9BrO4
